US05756475
trans-N,N'-bis(3,4-diethoxybenzyl)-1,4-diaminocyclohexane
The title compound was prepared by a similar way as in Preparation Example 1, except that trans-1,4-cyclohexane diamine was used instead of trans-1,2-cyclohexane diamine and 3,4-diethoxybenzaldehyde was used instead of veratraldehyde.

reactant | trans-1,4-cyclohexane diamine | [C@H]1(CC[C@H](CC1)N)N | C6H14N2
reactant | 3,4-diethoxybenzaldehyde | C(C)OC=1C=C(C=O)C=CC1OCC | C11H14O3
product | trans-N,N'-bis(3,4-diethoxybenzyl)-1,4-diaminocyclohexane | Yield=47% | C(C)OC=1C=C(CN[C@@H]2CC[C@H](CC2)NCC2=CC(=C(C=C2)OCC)OCC)C=CC1OCC | C28H42N2O4
